US04134987
A mixture of acetylacetone (5 g) and triethylamine (5.2 g) in dry benzene (50 ml) was treated with phenyl isocyanate (6 g) in dry benzene (25 ml). The mixture was stirred for 3 hr at room temperature. Water (50 ml) was then added, the mixture shaken and the water layer separated. The benzene solution was extracted with two further portions (25 ml) of water and the combined aqueous extracts acidified with dilute hydrochloric acid. The product precipitated and was collected by filtration, washed with water and dried. Diacetyl acetanilide (7.0 g, 73%) was obtained as a colourless solid, m.p. 119-121° C.

reactant | acetylacetone | 5 g | C(C)(=O)CC(C)=O | C5H8O2
reactant | triethylamine | 5.2 g | C(C)N(CC)CC | C6H15N
reactant | phenyl isocyanate | 6 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | Water | 50 ml | O | H2O
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
product | Diacetyl acetanilide | 7.0 g, 73% | C(C)(=O)C(C(=O)NC1=CC=CC=C1)C(C)=O | C12H13NO3
